US08431695B2
Step 1: Preparation of 2-Benzyl-6-bromo-2H-indazol-3-ylamine
To a dried flask charged with 4-bromo-2-fluorobenzonitrile (5.0 g, 22.5 mmol) in n-butanol (60 mL) was added a solution of benzylhydrazine hydrochloride (17.56 g, 90 mmol, 4.0 eq) and diisopropylethylamine (32.1 mL, 184.48 mmol, 8.2 eq). The reaction mixture was stirred at 140° C. under N2 for 3 days. The mixture was cooled to rt and partitioned between EtOAc and water. The organic layer was washed with saturated aqueous NaHCO3, water, brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified using an ISCO® instrument (gradient 5 to 60% EtOH/DCM) and the product containing fractions were concentrated to give 3.4 g (50%) of the title compound as beige solid. 1H NMR (300 MHz, CD2Cl2) δ 7.63 (dd, 1H), 7.37 to 7.30 (m, 4H), 7.20 to 7.16 (m, 2H), 6.94 (dd, 1H), 5.44 (s, 2H), 4.02 (broad s, 2H); ES-MS m/z 302.3/304.3 [M+H]+, RT (min) 2.34.

reactant | 4-bromo-2-fluorobenzonitrile | 22.5 mmol, 5.0 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | benzylhydrazine hydrochloride | 90 mmol, 17.56 g, 4.0 eq | Cl.C(C1=CC=CC=C1)NN
reactant | diisopropylethylamine | 184.48 mmol, 32.1 mL, 8.2 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | n-butanol | 60 mL | C(CCC)O | C4H10O
product | 2-Benzyl-6-bromo-2H-indazol-3-ylamine | 3.4 g, 50% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1N)Br | C14H12BrN3
